US09085581B2
To a solution of 4-fluoro-3-(trifluoromethyl)benzonitrile (154 g, 814 mmol) in THF (1.5 L) was added isopropanol (73.4 g, 1.22 mol). The reaction flask was purged with N2 and cooled in an ice bath (1.5° C. internal temperature). t-BuOK (1.0 M in THF, 847 mL, 847 mmol) was added slowly over 10 minutes via addition funnel (slight exotherm to 31° C. was observed) and let stir at that temperature for 30 min (temp decreased to 18° C. during this time). The ice bath was removed and allowed to stir at room temperature until starting material was consumed as observed by LC/MS (˜20 min). The resulting mixture was quenched with water (500 mL) and the layers were separated. The organic layer was concentrated and the aqueous layer was extracted with MTBE (1 L). The organics were combined and washed with H2O (750 mL) and brine (750 mL). Dried organics over MgSO4, filtered, and concentrated to give 4-isopropoxy-3-(trifluoromethyl)benzonitrile (183 g, 798 mmol, 98% yield) as a yellow solid. Exact mass calculated for C11H10F3N0: 229.1, found: LCMS m/z=230.2, [M+H+]; 1H NMR (400 MHz, CDCl3) δ ppm 1.41 (d, J=6.1 Hz, 6 H), 4.73 (sep, J=6.1 Hz, 1 H), 7.06 (d, J=8.7 Hz, 1 H), 7.75 (dd, J1=8.7, J2=2.1 Hz, 1 H), 7.85 (d, J=1.9 Hz, 1 H).

reactant | 4-fluoro-3-(trifluoromethyl)benzonitrile | 814 mmol, 154 g | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | isopropanol | 1.22 mol, 73.4 g | C(C)(C)O | C3H8O
reactant | t-BuOK | 847 mmol, 1.0 M, 847 mL | CC(C)(C)[O-].[K+]
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
product | 4-isopropoxy-3-(trifluoromethyl)benzonitrile | 798 mmol, 183 g, 98% yield | C(C)(C)OC1=C(C=C(C#N)C=C1)C(F)(F)F | C11H10F3NO
